US04229465
1-acetyl-3-cyano-4-phenylpyrrole (Compound No. 1)
4 g of 3-cyano-4-phenylpyrrole (Compound No. 8) was added to 20 ml of acetic anhydride and heated for 4 hours in oil-bath of 140°-150° C. After cooling, the resulting reaction mixture was poured into about ten-times volume of cold water to decompose excess acetic anhydride. The resulting precipitate was filtrated, washed with water and dried to obtain 4.5 g of crystal. The crystal was recrystallized from methyl alcohol to obtain 3 g of the desired product.

reactant | 3-cyano-4-phenylpyrrole | 4 g | C(#N)C1=CNC=C1C1=CC=CC=C1 | C11H8N2
reactant | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | 1-acetyl-3-cyano-4-phenylpyrrole | 4.5 g | C(C)(=O)N1C=C(C(=C1)C1=CC=CC=C1)C#N | C13H10N2O
